US04336264
1-(2,6-DICHLOROBENZOYL)-3-(5-(3-(TRIFLUOROMETHYL)PHENYL)-3-ISOXAZOLYL)UREA
5-(3-(Trifluoromethyl)phenyl)-3-aminoisoxazole (300 mg.) and excess 2,6-dichlorobenzoyl isocyanate were mixed in 50 ml. of ethyl acetate under nitrogen, and stirred for several hours at room temperature. The product was separated by filtration, m.p., 233° C. (dec)

reactant | 5-(3-(Trifluoromethyl)phenyl)-3-aminoisoxazole | 300 mg | FC(C=1C=C(C=CC1)C1=CC(=NO1)N)(F)F | C10H7F3N2O
reactant | 2,6-dichlorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DICHLOROBENZOYL)-3-(5-(3-(TRIFLUOROMETHYL)PHENYL)-3-ISOXAZOLYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NOC(=C2)C2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)Cl | C18H10Cl2F3N3O3
